US08685970B2
Ethyl 2-aminothiazole-4-carboxylate (10.0 g, 58.1 mmol) was taken up in 150 mL of anhydrous THF along with di-tert-butyl carbonate (Boc2O, 12.67 g, 58.1 mmol) along with 10 mg of 4-(dimethyl)aminopyridine (DMAP). The reaction mixture was stirred at 50° C. for 4 h and then at room temperature for 18 h. It was then concentrated under reduced pressure to obtain a thick oil. Pentane was added and the resulting crystalline materials were collected by filtration and dried to afford 10.5 g of ethyl 2-(tert-butoxycarbonylamino)thiazole-4-carboxylate. This material (10.5 g, 38.5 mmol) was dissolved in 300 mL of anhydrous THF and cooled in Dry Ice-acetonitrile bath. A solution of 1 M Super Hydride™ in THF (85 mL) was then added over a period of 10 min. The resulting reaction mixture was stirred at −45° C. for 2 h. Another portion of 1 M Super Hydride™ in THF (35 mL) was then added and the reaction mixture was stirred for an additional 2 h at −45° C. The reaction was quenched at −45° C. by the addition of 50 mL of brine. Upon warming to room temperature, the reaction mixture was concentrated under reduced pressure. The resulting mixture was extracted with EtOAc. The combined organic layers were washed with brine, dried (Na2SO4) and concentrated under reduced pressure. The resulting residue was purified by chromatography to afford 6.39 g of tert-butyl 4-(hydroxymethyl)thiazol-2-ylcarbamate (72%).

reactant | Ethyl 2-aminothiazole-4-carboxylate | 58.1 mmol, 10.0 g | NC=1SC=C(N1)C(=O)OCC | C6H8N2O2S
reactant | di-tert-butyl carbonate | 58.1 mmol, 12.67 g | C(OC(C)(C)C)(OC(C)(C)C)=O | C9H18O3
reactant | Pentane | CCCCC | C5H12
solvent | THF | 150 mL | C1CCOC1 | C4H8O
catalyst | 4-(dimethyl)aminopyridine | 10 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | ethyl 2-(tert-butoxycarbonylamino)thiazole-4-carboxylate | 10.5 g | C(C)(C)(C)OC(=O)NC=1SC=C(N1)C(=O)OCC | C11H16N2O4S
